US08110585B2
5-iodo-2-methyl[1,2,4]triazolo[1,5-a]pyridine
To a solution of 2-methyl[1,2,4]triazolo[1,5-a]pyridine (63.2 g, 475 mmol) in tetrahydrofuran (1.37 L) was added dropwise 2.5 M n-butyllithium/hexane solution (5.62 mL, 8.99 mmol) at −78° C. and the mixture was stirred at −78° C. for 30 min. A solution of iodine (181 g, 712 mmol) in tetrahydrofuran (1.00 L) was added, and the mixture was stirred at −78° C. for 30 min, and at room temperature for 1 hr. Water (500 mL) was added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=1/2) to give the title compound (45.0 g, yield 37%).

reactant | 2-methyl[1,2,4]triazolo[1,5-a]pyridine | 475 mmol, 63.2 g | CC1=NN2C(C=CC=C2)=N1 | C7H7N3
reactant | iodine | 712 mmol, 181 g | II | I2
reactant | Water | 500 mL | O | H2O
solvent | tetrahydrofuran | 1.37 L | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.00 L | O1CCCC1 | C4H8O
catalyst | n-butyllithium hexane | 8.99 mmol, 2.5 M, 5.62 mL | C(CCC)[Li].CCCCCC
product | 5-iodo-2-methyl[1,2,4]triazolo[1,5-a]pyridine | 45.0 g, yield 37% | IC1=CC=CC=2N1N=C(N2)C | C7H6IN3
